US05679694
e) 3,4-Dimethyl-2-(hydrazinocarbonyl)pyrrolo[3,2-]carbazole
Ethyl 3,4-dimethylpyrrolo[3,2-b]carbazole-2-carboxylate (500 mg) and 95% hydrazine (5 cm3) were stirred and heated at 120° C. for 6 h in a Readi-Vial. The mixture was allowed to stand overnight, cooled in ice and filtered. The resulting yellow solid was washed carefully with water and dried. Yield of title compound 350 mg (73%), no sharp m.p. but decomposes at 285° C. (Found: C, 69;19; H, 5.57; N, 19.38. Calc. for C17H16N4O. 0.1H2O requires C, 69.42; H, 5.55; N, 19.05%); δH [2H6 ]-DMSO) 10.80 (1H, s, exchangeable, NH), 10.55 (1H, s, exchangeable, NH), 9.20 (1H, s, exchangeable, NH), 8.06 (1H, d, J7.5 9-H), 7.81 (1H, s, 10-H), 7.42-7.28 (2H, m, 6-H and 7-H) 7.12-7.01 (1H, m, 8-H, 4.5 (2H, br, s, exchangeable, NH2), and 2.4 and 2.3 (2×s, 4-CH3 and 3-CH3), m/z 293 (M+1)+, FAB)].

reactant | Ethyl 3,4-dimethylpyrrolo[3,2-b]carbazole-2-carboxylate | 500 mg | CC=1C(=NC=2C1C(=C1N=C3C=CC=CC3=C1C2)C)C(=O)OCC | C19H16N2O2
reactant | hydrazine | 5 cm3 | NN | H4N2
product | 3,4-Dimethyl-2-(hydrazinocarbonyl)pyrrolo[3,2-]carbazole | CC=1C(=NC=2C1C(=CC1=C3C=CC=CC3=NC21)C)C(=O)NN | C17H14N4O
